US05091367
113. Fmoc-Trp-Ser-Tyr-OH
To a mixture of 50 ml of water and 50 ml of dioxane, 19.96 g (38.8 mmol) of H-Trp-Ser-Tyr-OH acetate, 6.52 g (77.6 mmol) of NaHCO3 and 14.2 g (42 mmol) of Fmoc-OnSu are added successively. After allowing to stand for 4 hours at room temperature, insoluble material is filtered off and discarded next day. The filtrate is concentrated. The residue is triturated with petroleum ether, filtered off with suction and dried.

reactant | water | 50 ml | O | H2O
reactant | H-Trp-Ser-Tyr-OH acetate | 38.8 mmol, 19.96 g | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O.CC(=O)O
reactant | NaHCO3 | 77.6 mmol, 6.52 g | C(=O)(O)[O-].[Na+]
reactant | Fmoc-OnSu | 42 mmol, 14.2 g | C1CC(=O)N(C1=O)OC(=O)OCC2C3=CC=CC=C3C4=CC=CC=C24 | C19H15NO5
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | Fmoc-Trp-Ser-Tyr-OH | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C38H36N4O8
